US09102591B2
N-[4,4-Difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-3-fluoro-2-methyl-benzamide
From 3-fluoro-2-methylbenzoic acid and C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=431.2, tR (minutes, Method D)=0.79

reactant | 3-fluoro-2-methylbenzoic acid | FC=1C(=C(C(=O)O)C=CC1)C | C8H7FO2
reactant | C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CN)F | C13H15F5N2
product | N-[4,4-Difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-3-fluoro-2-methyl-benzamide | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CNC(C1=C(C(=CC=C1)F)C)=O)F | C21H20F6N2O
